US04306098
Although aluminium chloride is a member of the class of Lewis acids, other Lewis acids have not been found effective or useful in the process of the invention. Ferric chloride did not effect significant demethylation. Only a 24% yield of 2,4,5-trichlorophenol was obtained when trichloroanisole was treated with a large excess of concentrated sulphuric acid for six hours at 75° C. in the absence of solvent. Other Lewis acids, viz. boron trichloride, boron trifluoride and pyridinium hydrochloride, are not economically attractive for this use. Thus aluminium trichloride is preferred as the demethylating agent.

reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trichloroanisole | ClC(OC1=CC=CC=C1)(Cl)Cl | C7H5Cl3O
product | 2,4,5-trichlorophenol | 24% yield | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
